US05760035
In a similar manner to Example 7, a mixture of 4-aminomethylpiperidine (2.9 g), 4'-chloroacetophenone (3.94 g), toluene (100 ml) and a catalytic amount of p-toluenesulphonic acid was boiled under reflux for five hours with removal of the water formed using a Dean and Stark apparatus. The mixture was cooled and treated with 2-bromoethyl 3-chlorophenyl ether (6.0 g) followed by triethylamine (3.54 ml). The mixture was boiled under reflux for 6 hours and then evaporated to dryness. 6M Hydrochloric acid (50 ml) was added and the mixture heated on a steam bath for 16 hours to give 4-aminomethyl-1-[2-(3-chlorophenoxy)ethyl]piperidine, as an oil. The oil, obtained on work up, was treated with 98% formic acid (5.0 ml) and formaldehyde (5.0 ml, 38% aqueous solution). The mixture was heated on a steam bath for 4 hours. After extractive work up as described in Example 7, the oil obtained was distilled at 120° C. at 0.13 mbar. The distillate was treated with ethereal hydrogen chloride to give 1-[2-(3-chlorophenoxy)ethyl]-4-(dimethylaminomethyl)piperidine dihydrochloride, m.p. 258°-260° C., after recrystallisation from absolute ethanol.

reactant | 4-aminomethylpiperidine | 2.9 g | NCC1CCNCC1 | C6H14N2
reactant | 4'-chloroacetophenone | 3.94 g | ClC1=CC=C(C=C1)C(C)=O | C8H7ClO
reactant | p-toluenesulphonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | 2-bromoethyl 3-chlorophenyl ether | 6.0 g | ClC=1C=C(C=CC1)OCCBr | C8H8BrClO
solvent | triethylamine | 3.54 ml | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 4-aminomethyl-1-[2-(3-chlorophenoxy)ethyl]piperidine | NCC1CCN(CC1)CCOC1=CC(=CC=C1)Cl | C14H21ClN2O
